US04016160
7-Amino-3-(4H-1,2,4-triazol-3-ylthiomethyl)-3-cephem-4-carboxylic acid (3.13 g) was suspended in dried methylene chloride (30 ml) and bis(trimethylsilyl)acetamide (6.10 g) was added to the suspension to give a solution. A solution of dichloroacetyl chloride (1.62 g) in dried methylene chloride (20 ml) was added slowly to the solution at -20° C. The mixture was stirred at the same temperature for 30 minutes and then allowed to stand at room temperature. Methylene chloride was distilled off from the reaction mixture under reduced pressure. To the residue was added ice water and the aqueous solution was adjusted to pH 8 with 5% aqueous sodium bicarbonate, washed with ethyl acetate and then filtered. The filtrate was adjusted to pH 2 with 10% hydrochloric acid and extracted with ethyl acetate (50 ml) three times. These extracts were put together, washed with water twice and with saturated aqueous sodium chloride and dried over magnesium sulfate. Ethyl acetate was distilled off from the solution under reduced pressure. To the residue was added ether and the mixture was stirred. Precipitates were collected by filtration and dried to give 7-dichloroacetamido-3-(4H-1,2,4-triazol-3-ylthiomethyl)-3-cephem-4-carboxylic acid (2.95 g).

reactant | 7-Amino-3-(4H-1,2,4-triazol-3-ylthiomethyl)-3-cephem-4-carboxylic acid | 3.13 g | NC1[C@@H]2N(C(=C(CS2)CSC2=NN=CN2)C(=O)O)C1=O | C10H11N5O3S2
reactant | bis(trimethylsilyl)acetamide | 6.10 g | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
reactant | dichloroacetyl chloride | 1.62 g | ClC(C(=O)Cl)Cl | C2HCl3O
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 7-dichloroacetamido-3-(4H-1,2,4-triazol-3-ylthiomethyl)-3-cephem-4-carboxylic acid | 2.95 g | ClC(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=CN2)C(=O)O)C1=O)Cl | C12H11Cl2N5O4S2
